US06011044
Preparation of 1-(2-methyl-4-hydroxyphenyl)-4-methylamino-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methyl-4-hydroxyphenyl)-4-oxo-6-β,β,β-trifluoroethoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline (2.5 g, 6.4 mmol) was dissolved in dichloromethane, triethylamine(2.2 ml, 16.0 mmol), and methanesulfonyl chloride(1.1 ml, 13.5 mmol) was added at -78° C. The reaction mixture was stirred for 3 hours, then slowly warmed up to -10° C., and stirred for 1 hours. The reaction mixture was extracted with dichloromethane, and the organic layer was washed with water for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized in dichloromethane/hexane to obtain 2.3 g of desired compound as solid in 75% of yield.

reactant | 1-(2-Methyl-4-hydroxyphenyl)-4-oxo-6-β,β,β-trifluoroethoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 6.4 mmol, 2.5 g | CC1=C(C=CC(=C1)O)N1CCC=2C(NC=3C(=CC=CC3C21)OCC(F)(F)F)=O | C20H17F3N2O3
reactant | triethylamine | 16.0 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.5 mmol, 1.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-methyl-4-hydroxyphenyl)-4-methylamino-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 2.3 g | CC1=C(C=CC(=C1)O)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NC | C21H20F3N3O2
